US09126931B2
Under nitrogen atmosphere, 4-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound U8-1, 30.0 mg, 60.56 μmol) and lithium chloride (7.70 mg, 181.7 μmol) were dissolved in DMF (1.00 mL), added with tetramethyl tin (12.5 μL, 90.84 μmol), tetrakistriphenylphosphine palladium (3.50 mg, 6.056 μmol) and tricyclohexylphosphine (toluene solution, 20 wt %, 17.0 mg, 3.028 μmol), and the mixture was stirred at 100° C. for 24 hr. The reaction solution was poured into hydrochloric acid (1 M), extracted with ethyl acetate, washed with water, saturated aqueous solution of sodium bicarbonate and saturated brine, dried over sodium sulfate, and then filtered. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-4,6,6-trimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile as a crude product (20.9 mg, 80%).

reactant | 4-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 60.56 μmol, 30.0 mg | BrC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O)C#N | C25H23BrN2O4
reactant | lithium chloride | 181.7 μmol, 7.70 mg | [Cl-].[Li+]
reactant | tetramethyl tin | 90.84 μmol, 12.5 μL | C[Sn](C)(C)C
reactant | tricyclohexylphosphine | 3.028 μmol, 17.0 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-4,6,6-trimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | CC1(OC[C@@H](O1)COC=1C=CC2=C(C(C=3NC4=C(C(=CC=C4C3C2=O)C#N)C)(C)C)C1)C | C26H26N2O4
